US03947470
4-(2-Diethylaminoethoxy)benzoic acid hydrochloride is suspended in methylene chloride and a five-fold excess of thionyl chloride is added. The mixture is refluxed until the solid dissolves, then concentrated under reduced pressure to give 4-(2-diethylaminoethoxy)benzoyl chloride hydrochloride.

reactant | 4-(2-Diethylaminoethoxy)benzoic acid hydrochloride | Cl.C(C)N(CCOC1=CC=C(C(=O)O)C=C1)CC
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-diethylaminoethoxy)benzoyl chloride hydrochloride | Cl.C(C)N(CCOC1=CC=C(C(=O)Cl)C=C1)CC | InChI=1S/C13H18ClNO2.ClH/c1-3-15(4-2)9-10-17-12-7-5-11(6-8-12)13(14)16;/h5-8H,3-4,9-10H2,1-2H3;1H
